US07659394B2
(S)-2-[(S)-(2-Cyclopropyl-phenoxy)-phenyl-methyl]-morpholine was synthesized from 6-[(2-Bromo-phenoxy)-phenyl-methyl]-morpholin-3-one and cyclopropyl boronic acid according to general procedures A and B and was isolated as a viscous colorless oil. 1H NMR (CDCl3): δ 7.40-7.24 (m, 5H), 6.91 (m, 1H), 6.80 (m, 2H), 6.66 (d, 1H), 5.15 (d, 1H), 3.94 (m, 2H), 3.65 (dt, 1H), 2.85-2.59 (m, 4H), 2.32 (m, 1H), 0.99-0.89 (m, 2H), 0.74-0.59 (m, 2H); MS (ES) 310.1 [C20H23NO2+H]+; HPLC purity (98.6%); Analysis: Calc'd for C20H23NO2: C, 77.64; H, 7.49; N, 4.53. Found: C, 76.61; H, 7.58; N, 4.37.

reactant | 6-[(2-Bromo-phenoxy)-phenyl-methyl]-morpholin-3-one | BrC1=C(OC(C2OCC(NC2)=O)C2=CC=CC=C2)C=CC=C1 | C17H16BrNO3
reactant | cyclopropyl boronic acid | C1(CC1)B(O)O | C3H7BO2
product | (S)-2-[(S)-(2-Cyclopropyl-phenoxy)-phenyl-methyl]-morpholine | C1(CC1)C1=C(O[C@H]([C@@H]2CNCCO2)C2=CC=CC=C2)C=CC=C1 | C20H23NO2
